US07098212B2
(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-ylamino)-acetic acid ethyl ester
To a solution of 2-(3-amino-5-chloro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.105 g, 0.26 mmol) in 1,2-dichloroethane (2 mL) was added ethyl glyoxylate (0.050 mL, ˜0.5 mmol, 50% solution in toluene), acetic acid (0.016 mL, 0.28 mmol) and sodium triacetoxyborohydride (0.085 g, 0.40 mmol). The reaction was stirred at ambient temperature for 18 hours. Additional ethyl glyoxylate (0.050 mL, ˜0.5 mmol, 50% solution in toluene) and acetic acid (0.016 mL, 0.28 mmol) were added and the reaction was warmed to reflux for 3 hours. The reaction was then cooled to ambient temperature, sodium cyanoborohydride (˜0.030 g, 0.48 mmol) was added and the reaction was stirred at ambient temperature for 18 hours. The reaction was diluted with water and extracted with methylene chloride. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. Flash chromatography on silica gel provided the title compound (0.085 g).

reactant | 2-(3-amino-5-chloro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.26 mmol, 0.105 g | NC=1C(=NC=C(C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C20H24ClFN4O2
reactant | ethyl glyoxylate | ˜0.5 mmol, 0.050 mL | C(C=O)(=O)OCC | C4H6O3
reactant | acetic acid | 0.28 mmol, 0.016 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.40 mmol, 0.085 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ethyl glyoxylate | ˜0.5 mmol, 0.050 mL | C(C=O)(=O)OCC | C4H6O3
reactant | acetic acid | 0.28 mmol, 0.016 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.48 mmol, ˜0.030 g | C(#N)[BH3-].[Na+]
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | (5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-ylamino)-acetic acid ethyl ester | 0.085 g | C(C)OC(CNC=1C(=NC=C(C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C24H30ClFN4O4
